US06511980B2
1-(2-(3-aminophenoxy)ethyl)pyrrolidine
A mixture of 1-(2-(3-nitrophenoxy)ethyl)pyrrolidine (3.49 g, 14.8 mmol), 10% palladium on carbon (400 mg) and ethyl acetate (20 ml) was reduced under 50 psi hydrogen for 10 h. The reaction mixture was filtered through Celite 545 and the product extracted into 1M HCl (3×20 ml). The acidic layer was washed with ether (2×20 ml) and then the pH adjusted to >10 with 2M NaOH. The aqueous layer was extracted with ether (3×20 ml), dried over MgSO4 and concentrated in vacuo. The product was eluted through a silica gel pad (75% ethyl acetate/hexane/1% Et3N) to yield the product as a pale yellow oil.

reactant | 1-(2-(3-nitrophenoxy)ethyl)pyrrolidine | 14.8 mmol, 3.49 g | [N+](=O)([O-])C=1C=C(OCCN2CCCC2)C=CC1 | C12H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-(3-aminophenoxy)ethyl)pyrrolidine | NC=1C=C(OCCN2CCCC2)C=CC1 | C12H18N2O
